US07981918B2
4,5,6,7-Tetrahydro-1H-indazol-4-ylamine
Stir a mixture of (4,5,6,7-tetrahydro-1H-indazol-4-yl)-carbamic acid benzyl ester (3.5 g) methanol (50 mL) and palladium on carbon (10%, 0.7 g) on a hydrogenation parr shaker under 50 psi for 3 hours. Remove the reaction from parr shaker and filter the mixture through celite. Concentrate the filtrate to afford 1.7 g of the title compound.

reactant | (4,5,6,7-tetrahydro-1H-indazol-4-yl)-carbamic acid benzyl ester | 50 mL, 3.5 g | C(C1=CC=CC=C1)OC(NC1C=2C=NNC2CCC1)=O | C15H17N3O2
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
product | 4,5,6,7-Tetrahydro-1H-indazol-4-ylamine | 1.7 g | N1N=CC=2C(CCCC12)N | C7H11N3
